US05216026
Preparation of N-(4-chlorophenyl)-N'-phenylmethanesulfonylurea
The general method of procedure A was followed with phenylmethanesulfonamide (51.3 g), acetone (30 ml), 1N sodium hydroxide (31.5 ml), and 4-chlorophenyl isocyanate (5.07 g) in acetone (30 ml). The reaction mixture was filtered and the filtrate acidified with 1N HCl (31.5 ml). The solid product was washed with water and dried in vacuum at 60° C. to provide 7.73 g of white powder.

reactant | phenylmethanesulfonamide | 51.3 g | C1(=CC=CC=C1)CS(=O)(=O)N | C7H9NO2S
reactant | sodium hydroxide | 1N, 31.5 ml | [OH-].[Na+]
reactant | 4-chlorophenyl isocyanate | 5.07 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | N-(4-chlorophenyl)-N'-phenylmethanesulfonylurea | 7.73 g | ClC1=CC=C(C=C1)NC(=O)NS(=O)(=O)CC1=CC=CC=C1 | C14H13ClN2O3S
